US04731373
A solution of 0.17 g of (S)-2-O-methyl-1-O-octadecylglycerine in 10 ml of dichloroethane is treated with 1 ml of 2-chloroethyl isocyanate and heated at 80° C. for 25 hours. The solution is evaporated and the residue is chromatographed on silica gel. After elution with dichloromethane-ether (9:1), there is obtained (R)-1-O-[(2-chloroethyl)carbamoyl]-2-O-methyl-3-O-octadecylglycerine in the form of an oil.

reactant | (S)-2-O-methyl-1-O-octadecylglycerine | 0.17 g | CO[C@H](COCCCCCCCCCCCCCCCCCC)CO | C22H46O3
reactant | 2-chloroethyl isocyanate | 1 ml | ClCCN=C=O | C3H4ClNO
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
product | (R)-1-O-[(2-chloroethyl)carbamoyl]-2-O-methyl-3-O-octadecylglycerine | ClCCNC(=O)OC[C@H](OC)COCCCCCCCCCCCCCCCCCC | C25H50ClNO4
